US07875605B2
(1H-Indol-3-yl)-(4-methylpiperazin-1-yl)methanone
1H-Indole-3-carboxylic acid (1.61 g, 0.01 moles) was stirred with oxalyl chloride (0.99 g, 0.011 moles) in 20 mL dichloromethane at 0 to 25° C. for 3-4 hours. After completion of the reaction (TLC), volatile substances were distilled off under the reduced pressure. The residue was taken in 20 mL dichloroethane and to this stirred solution, was added N-methylpiperazine (1.1 g, 0.011 moles). The reaction mixture was further stirred for next 3-5 hours, till the reaction completes (TLC). Reaction mixture was diluted with dichloromethane 20 mL), washed with water, brine and saturated solution of sodium bicarbonate. The organic layer was dried over sodium sulfate and the organic solvents were evaporated under vacuo. The product was purified using column chromatography on silica gel G stationary phase and suitable combinations of ethyl acetate and methanol in increasing gradient, as the mobile phase.

reactant | 1H-Indole-3-carboxylic acid | 0.01 moles, 1.61 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | oxalyl chloride | 0.011 moles, 0.99 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-methylpiperazine | 0.011 moles, 1.1 g | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (1H-Indol-3-yl)-(4-methylpiperazin-1-yl)methanone | N1C=C(C2=CC=CC=C12)C(=O)N1CCN(CC1)C | C14H17N3O
